US03971819
3-Benzylamino-4-(β-phenylethylamino)-5-sulphamyl-benzoic acid
A mixture of 3-amino-4-(β-phenylethylamino)-5-sulphamyl-benzoic acid (3.35 g), benzyl bromide (5.3 g), and anhydrous ethanol (30 ml) was refluxed for 48 hours. After cooling, the precipitated ethyl ester was collected by suction, recrystallized from ethanol and saponified by heating in 1N sodium hydroxide (30 ml) for 1 hour. The 3-benzylamino-4-(β-phenylethylamino)-5-sulphamyl-benzoic acid was precipitated at room temperature by addition of 4N hydrochloric acid until the pH was 2.5. After recrystallization from aqueous ethanol, the compound was obtained with a melting point of 203°C.

reactant | 3-amino-4-(β-phenylethylamino)-5-sulphamyl-benzoic acid | 3.35 g | NC=1C=C(C(=O)O)C=C(C1NCCC1=CC=CC=C1)S(N)(=O)=O | C15H17N3O4S
reactant | benzyl bromide | 5.3 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-Benzylamino-4-(β-phenylethylamino)-5-sulphamyl-benzoic acid | C(C1=CC=CC=C1)NC=1C=C(C(=O)O)C=C(C1NCCC1=CC=CC=C1)S(N)(=O)=O | C22H23N3O4S
